US08980276B2
Preparation 12: (S)-2-(5-(1-methylpyrrolidin-2-yl)pyridin-3-yloxy)ethanamine
Preparation 12a: (S)-tert-butyl 2-(5-(1-Methylpyrrolidin-2-yl)pyridin-3-yloxy)ethylcarbamate (preparation 11) (105 mg, 0.33 mmol) was stirred in trifluoroacetic acid (1 mL) and DCM (5 mL) for 1.5 h. The reaction mixture was evaporated, then co-evaporated with DCM (×5) and 20% ammonia in MeOH. The crude product was purified by flash chromatography (5% [20% ammonia in MeOH] in DCM) to give the title compound as a yellow oil (62 mg, 85%).

reactant | (S)-tert-butyl 2-(5-(1-Methylpyrrolidin-2-yl)pyridin-3-yloxy)ethylcarbamate | 0.33 mmol, 105 mg | CN1[C@@H](CCC1)C=1C=C(C=NC1)OCCNC(OC(C)(C)C)=O | C17H27N3O3
reactant | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-2-(5-(1-methylpyrrolidin-2-yl)pyridin-3-yloxy)ethanamine | 62 mg, 85% | CN1[C@@H](CCC1)C=1C=C(C=NC1)OCCN | C12H19N3O
